US04013690
b. 2'-methoxy-4'-phenyl-acetophenone
52 g of SnCl4 are added dropwise at 5°, while stirring vigorously, to a solution of 36.8 g of 3-methoxy biphenyl and 15.6 g of acetyl chloride in 700 cc of benzene. The mixture is stirred over night at 23°. The reaction mixture is washed twice with 2 N sodium hydroxide and twice with water. Extraction is again effected twice with toluene. The organic phases are combined, dried over anhydrous sodium sulphate and concentrated. 44 g of a crude product are obtained, which are chromatographed on a 20-fold quantity of silica gel. Solvent for absorption and elution: methylene chloride. The crude fractions are crystallized from ether/petroleum ether, whereby 4-acetyl-3-methoxy biphenyl, having an M.P. of 74°-75°, is obtained.

reactant | SnCl4 | 52 g | Cl[Sn](Cl)(Cl)Cl
reactant | 3-methoxy biphenyl | 36.8 g | COC=1C=C(C=CC1)C1=CC=CC=C1 | C13H12O
reactant | acetyl chloride | 15.6 g | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 700 cc | C1=CC=CC=C1 | C6H6
product | 2'-methoxy-4'-phenyl-acetophenone | 44 g | COC1=C(C=CC(=C1)C1=CC=CC=C1)C(C)=O | C15H14O2
